US06653334B1
Synthesis of tert-Butyl 2-(3-Methoxycarbonylphenoxy)-2-methylpropionate
Methyl 3-hydroxybenzoate (17.05 g, 0.112 mol) was dissolved in dimethylformamide (100 mL). Subsequently, potassium carbonate (20.12 g, 0.145 mol) and then tert-butyl 2-bromoisobutyrate (50.00 g, 0.224 mol) were added thereto, and the mixture was stirred overnight at 80° C. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the concentrate. Washing was performed sequentially with water and saturated brine, followed by drying over sodium sulfate. The reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (n-hexane/ethyl acetate=10/1), whereby a colorless oil was obtained (17.03 g, 57.80 mmol, 51.6%).

reactant | Methyl 3-hydroxybenzoate | 0.112 mol, 17.05 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 0.145 mol, 20.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-bromoisobutyrate | 0.224 mol, 50.00 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 2-(3-Methoxycarbonylphenoxy)-2-methylpropionate | COC(=O)C=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C16H22O5
